US08431695B2
Step 7: Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{[2-(pyrrolidin-1-ylmethyl) cyclopropyl]methyl}pyrrolo[2,1-f][1,2,4]triazin-4-amine (Trans)
To a solution of (2-{[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]methyl}cyclopropyl)methyl methanesulfonate (0.2 g, 0.4 mmol) in DMF (2 mL) was added pyrrolidine (84 mg, 1.2 mmol) and DIEA (102 mg, 0.8 mmol), and the mixture was heated to 80° C. for 3 hours. The mixture was concentrated in vacuo and the residue was dissolved in methanol and purified by preparative HPLC to provide 11 mg (6%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 720 (s, 1 H), 5.70 (s, 2 H), 2.9-2.8 (m, 2 H), 2.4-2.2 (m, 6 H), 1.7 (m, 4 H), 1.1-0.9 (m, 2 H), 0.5-0.4 (m, 2 H); ES-MS m/z 478.2 [M+H]P, HPLC RT (min) 2.29.

reactant | (2-{[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]methyl}cyclopropyl)methyl methanesulfonate | 0.4 mmol, 0.2 g | CS(=O)(=O)OCC1C(C1)CC1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H26N6O3S
reactant | pyrrolidine | 1.2 mmol, 84 mg | N1CCCC1 | C4H9N
reactant | DIEA | 0.8 mmol, 102 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{[2-(pyrrolidin-1-ylmethyl) cyclopropyl]methyl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 11 mg, 6% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CC2C(C2)CN2CCCC2 | C29H31N7
